US07067658B2
Trifluoro-methanesulfonic acid 4-(5-chloro-4-methoxy-2-methyl-phenyl)-3-nitro-pyridin-2-yl ester (0.38 g, 0.89 mmol) and 1-methoxymethyl-propylamine (0.23 g, 2.23 mmol) were treated substantially as described in Part C of Example 19a to produce 0.13 g (40%) of crude [4-(5-chloro-4-methoxy-2-methyl-phenyl)-3-nitro-pyridin-2-yl]-(1-methoxymethyl-propyl)-amine: MS (EI) m/z 380.19 [(M+H)+, 100].

reactant | Trifluoro-methanesulfonic acid 4-(5-chloro-4-methoxy-2-methyl-phenyl)-3-nitro-pyridin-2-yl ester | 0.89 mmol, 0.38 g | ClC=1C(=CC(=C(C1)C1=C(C(=NC=C1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-])C)OC | C14H10ClF3N2O6S
reactant | 1-methoxymethyl-propylamine | 2.23 mmol, 0.23 g | COCC(CC)N | C5H13NO
product | [4-(5-chloro-4-methoxy-2-methyl-phenyl)-3-nitro-pyridin-2-yl]-(1-methoxymethyl-propyl)-amine | 0.13 g, 40% | ClC=1C(=CC(=C(C1)C1=C(C(=NC=C1)NC(CC)COC)[N+](=O)[O-])C)OC | C18H22ClN3O4
